US07115643B2
100.0 g (876.5 mmol) of 1,4-difluorobenzene and 90.83 ml (1139 mmol) of chloroacetyl chloride were cooled to 10° C. Within 5 minutes at 10–17° C. 153.5 g (1139 mmol) of aluminium chloride (99%) were added and the mixture warmed to room temperature. The mixture was heated for 30 minutes to 60° C. and the heating continued at this temperature for another 70 minutes. The reaction mixture was cooled to room temperature and poured onto a mixture of 0.8 l of ice and 400 ml at concentrated aqueous hydrochloric acid, extracted twice with each 500 ml of ethyl acetate, and the organic phases were washed once with 200 ml of water, three times with 400 ml of half-saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, dissolved for 1 hour at 80° C. in 400 ml of n-hexane and, after the addition of 4 g of active carbon, filtered hot, stirred at room temperature and cooled to 0° C.; the crystals formed were dried at room temperature under reduced pressure to give 104 g (69%) of 2-chloro-1-(2,5-difluoro-phenyl)-ethanone.

reactant | 1,4-difluorobenzene | 876.5 mmol, 100.0 g | FC1=CC=C(C=C1)F | C6H4F2
reactant | chloroacetyl chloride | 1139 mmol, 90.83 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 1139 mmol, 153.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
product | 2-chloro-1-(2,5-difluoro-phenyl)-ethanone | 104 g, 69% | ClCC(=O)C1=C(C=CC(=C1)F)F | C8H5ClF2O
